US07109229B2
(b) 3-(5-Methyl-1H-indol-3-yl)-4-(1-methyl-1H-indol-7-yl)pyrrole-2,5-dione
To a solution of 2-(1-methyl-1H-indol-7-yl)acetamide (260 mg, 1.4 mmol) and methyl 2-(5-methyl-1H-indol-3-yl)oxoacetate (300 mg, 1.4 mmol) in DMF (5.4 mL) was added a 1.0 M solution of potassium tert-butoxide in THF (1.4 mL, 1.4 mmol) at 4° C. under N2. The reaction was stirred for 20 min, and additional potassium tert-butoxide (1.0 M, 2.8 mL, 2.8 mmol) was added. The resulting dark purple solution was heated to 50° C. and stirred over night. The mixture was cooled to 4° C. and quenched with 1.0 N hydrochloric acid (9 mL), and extracted with EtOAc (300 mL). The organic layer was separated, washed with saturated aqueous NaHCO3 (150 mL), brine (150 mL), and dried (MgSO4). The mixture was filtered, and concentrated to a red solid. Flash chromatography (SiO2, 40% EtOAc/hexanes) gave the title compound (320 mg, 65%) as a red solid, mp 174–176° C. 1H NMR (DMSO-d6) δ 8.02 (s, 1H), 7.61 (m, 1H), 7.24 (s, 1H), 7.16 (m, 1H), 6.95 (m, 1H), 6.85 (m, 1H), 6.75 (m, 1H), 6.46 (s, 1H), 5.71 (s, 1H) 3.62 (s, 3H), 1.71 (s, 3H). MS (ESI): m/z=356 [C22H17N3O2+H]+

reactant | 2-(1-methyl-1H-indol-7-yl)acetamide | 1.4 mmol, 260 mg | CN1C=CC2=CC=CC(=C12)CC(=O)N | C11H12N2O
reactant | methyl 2-(5-methyl-1H-indol-3-yl)oxoacetate | 1.4 mmol, 300 mg | CC=1C=C2C(=CNC2=CC1)C(C(=O)OC)=O | C12H11NO3
reactant | potassium tert-butoxide | CC(C)([O-])C.[K+]
reactant | THF | 1.4 mmol, 1.4 mL | C1CCOC1 | C4H8O
reactant | potassium tert-butoxide | 2.8 mmol, 1.0 M, 2.8 mL | CC(C)([O-])C.[K+]
solvent | DMF | 5.4 mL | CN(C)C=O | C3H7NO
product | 3-(5-Methyl-1H-indol-3-yl)-4-(1-methyl-1H-indol-7-yl)pyrrole-2,5-dione | 320 mg, 65% | CC=1C=C2C(=CNC2=CC1)C=1C(NC(C1C=1C=CC=C2C=CN(C12)C)=O)=O | C22H17N3O2
